US07786115B2
3-(7-Hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzoic acid (0.47 g), 2-dimethylaminoethyl chloride hydrochloride (0.69 g), potassium carbonate (2.21 g), and sodium iodide (24 mg) were stirred in acetone (25 ml) at 60° C. for 17 hours. 2N NaOH (5 ml) was added, the reaction stirred for 20 minutes and the acetone removed by evaporation. The residue was acidified with concentrated hydrochloric acid and the solution was purified by column chromatography on an ion exchange column (isolute SCX column from International Sorbent Technology Limited, Henoed, Mid-Glamorgan, UK) using initially methanol and then a 99:1 mixture of methanol and aqueous ammonia solution to give 3-[7-[2-(dimethylamino)ethoxy]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoic acid as an oil (232 mg); Mass Spectrum: M+H+ 367.

reactant | 3-(7-Hydroxy-1-oxoisoquinolin-2(1H)-yl)-4-methylbenzoic acid | 0.47 g | OC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)O)C=CC1C | C17H13NO4
reactant | 2-dimethylaminoethyl chloride hydrochloride | 0.69 g | Cl.CN(CCCl)C
reactant | potassium carbonate | 2.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 24 mg | [I-].[Na+]
reactant | NaOH | 2N, 5 ml | [OH-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 3-[7-[2-(dimethylamino)ethoxy]-1-oxoisoquinolin-2(1H)-yl]-4-methylbenzoic acid | 232 mg | CN(CCOC1=CC=C2C=CN(C(C2=C1)=O)C=1C=C(C(=O)O)C=CC1C)C | C21H22N2O4
